US04794188
2-[3-(1-Acetoxyhexyl)phenoxymethyl]quinoline
To a solution of 2-[[3-(1-hydroxyhexyl)phenoxymethyl]quinoline (1.7 g) in pyridine at 0° C. was added acetic anhydride (2.7 ml). The reaction mixture was stirred overnight at room temperature. The solvent was removed in vacuo to obtain the crude product.

reactant | [3-(1-hydroxyhexyl)phenoxymethyl]quinoline | 1.7 g | OC(CCCCC)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H25NO2
reactant | acetic anhydride | 2.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[3-(1-Acetoxyhexyl)phenoxymethyl]quinoline | C(C)(=O)OC(CCCCC)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C24H27NO3
